US09416153B2
Synthesis of 5-(4-(3-hydroxy-6-oxo-6H-xanthen-9-yl)phenoxy)pentanoic acid (Dye 9)
Dye 9 (shown below) was prepared using the procedure described in Example 4 except that 5-(4-formylphenoxy)pentanoic acid and resorcinol substituted for 1-ethyl-2,2,4-trimethyl-1,2-dihydroquinolin-7-ol and 2-(4-formylphenoxy)acetic acid. Yield: 26%. λabs=486 nm (in methanol), λem=513 nm (in methanol).

reactant | 5-(4-formylphenoxy)pentanoic acid | C(=O)C1=CC=C(OCCCCC(=O)O)C=C1 | C12H14O4
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 1-ethyl-2,2,4-trimethyl-1,2-dihydroquinolin-7-ol | C(C)N1C(C=C(C2=CC=C(C=C12)O)C)(C)C | C14H19NO
reactant | 2-(4-formylphenoxy)acetic acid | C(=O)C1=CC=C(OCC(=O)O)C=C1 | C9H8O4
solvent | methanol | CO | CH4O
product | 5-(4-(3-hydroxy-6-oxo-6H-xanthen-9-yl)phenoxy)pentanoic acid | Yield: 26% | OC=1C=CC=2C(=C3C=CC(C=C3OC2C1)=O)C1=CC=C(OCCCCC(=O)O)C=C1 | C24H20O6
